US04728662
1.4 g NaH is suspended in 50 ml DMF with stirring. A solution of 7.2 g of 5,7-dichloro-3-(2-fluorophenyl)-6-hydroxy-1,2-benzisoxazole in 50 ml DMF is added dropwise. The solution is heated to 45° C. for one hour. Ethyl bromoacetate (4.0 g) in 20 ml DMF is added dropwise and the reaction is stirred at 40° C. for two hours. The solution is poured into 1 l of water, stirred and extracted with ethylacetate. The organic extracts are washed with saturated NaCl solution and the solvent removed in vacuo affording ethyl{[5,7-dichloro-3-(2-fluorophenyl)-1,2-benzisoxazole-6-yl]oxy}acetate, mp 105°-106° C.

reactant | NaH | 1.4 g | [H-].[Na+]
reactant | 5,7-dichloro-3-(2-fluorophenyl)-6-hydroxy-1,2-benzisoxazole | 7.2 g | ClC=1C(=C(C2=C(C(=NO2)C2=C(C=CC=C2)F)C1)Cl)O | C13H6Cl2FNO2
reactant | Ethyl bromoacetate | 4.0 g | BrCC(=O)OCC | C4H7BrO2
reactant | water | 1 l | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | ethyl{[5,7-dichloro-3-(2-fluorophenyl)-1,2-benzisoxazole-6-yl]oxy}acetate | C(C)OC(COC1=C(C2=C(C(=NO2)C2=C(C=CC=C2)F)C=C1Cl)Cl)=O | C17H12Cl2FNO4
